US04061656
A mixture of 61.59 g. (0.368 mol) of 2,5-dichloro-3-methylthiophene, 13.1 g. of paraformaldehyde and 3.1 g. of zinc chloride was heated to 55° C. Hydrogen chloride gas was passed through the mixture for 7.25 hours. The resulting mixture was cooled and poured into a mixture of ether and ice water. The organic phase was separated and washed with sodium chloride solution, sodium bicarbonate solution and sodium chloride solution again. Evaporation of the dried solvent gave a dark brown oil which was distilled under reduced pressure to yield 3-chloromethyl-2,5-dichloro-4-methylthiophene as a pale yellow liquid, b.p. 87°-92° C./0.75 mm.

reactant | 2,5-dichloro-3-methylthiophene | 0.368 mol | ClC=1SC(=CC1C)Cl | C5H4Cl2S
reactant | paraformaldehyde | C=O | CH2O
reactant | Hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 3-chloromethyl-2,5-dichloro-4-methylthiophene | ClCC1=C(SC(=C1C)Cl)Cl | C6H5Cl3S
